### PR TITLE
Retracts entail epi and mono

### PR DESCRIPTION
**Pull request by sergey-goncharov**

### CODE REVIEW

File: src/Categories/Morphism/Properties.agda [hunk 1]
```diff
@@ -154,6 +154,24 @@ f ∘↠ g = record { mor = mor f ∘ mor g ; epi = Epi-∘ (epi f) (epi g) }
   where
     open _↠_
 
+Retract⇒Epi : ∀ {X Y} → (f : Retract X Y) → Epi (Retract.retract f)
+Retract⇒Epi {X}{Y} f g₁ g₂ eq = begin
+  g₁                                                   ≈⟨ identityʳ ⟨
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda]: I believe these two steps are `introʳ Retract.is-retract f` with the last two being `elim`.

File: src/Categories/Morphism/Properties.agda [hunk 2]
```diff
@@ -154,6 +154,24 @@ f ∘↠ g = record { mor = mor f ∘ mor g ; epi = Epi-∘ (epi f) (epi g) }
...
+  g₁ ∘ id                                              ≈⟨ refl⟩∘⟨ Retract.is-retract f ⟨
+  g₁ ∘ Retract.retract f ∘ Retract.section f           ≈⟨ extendʳ eq ⟩ 
+  g₂ ∘ Retract.retract f ∘ Retract.section f           ≈⟨ refl⟩∘⟨ Retract.is-retract f ⟩
+  g₂ ∘ id                                              ≈⟨ identityʳ ⟩
+  g₂ ∎
+
+Retract⇒Mono : ∀ {X Y} → (f : Retract X Y) → Mono (Retract.section f)
+Retract⇒Mono {X}{Y} f g₁ g₂ eq = begin
+  g₁                                                   ≈⟨ identityˡ ⟨
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda]: Symmetrically using the left intro/elim.

**Review by JacquesCarette — DISMISSED** [review]
Nicely spotted that we were missing these. Minor improvements on the proofs.

File: src/Categories/Morphism/Properties.agda (hunk 2 above)
Comment (sergey-goncharov) [reply src/Categories/Morphism/Properties.agda]: Done. better now?

**Review by JacquesCarette — APPROVED** [review]
Excellent!
